US08252820B2
B. Methanesulfonic acid 2-hydroxymethyl-5-methylphenyl ester
To a solution of 2-methanesulfonyloxy-5-methylbenzoic acid methyl ester (15 g, 61.4 mmol) in THF (30 mL) at 0° C. is added portionwise LiBH4 (4.0 g, 184 mmol) and the mixture is stirred for 15 min. Then MeOH (8 mL, 196 mmol) is added dropwise over 30 min. The mixture is stirred under ice cooling for 30 min, then at RT for 18 h. EtOAc is added followed by ice and water. The mixture is acidified slowly with 1N HCl solution and organic phase is separated. The aqueous phase is extracted with EtOAc. The organic phases are combined, and washed with 1N HCl solution, and brine. It is then dried over Na2SO4 and MgSO4, and concentrated to give the title compound as an oil.

reactant | 2-methanesulfonyloxy-5-methylbenzoic acid methyl ester | 61.4 mmol, 15 g | COC(C1=C(C=CC(=C1)C)OS(=O)(=O)C)=O | C10H12O5S
reactant | LiBH4 | 184 mmol, 4.0 g | [Li+].[BH4-]
reactant | MeOH | 196 mmol, 8 mL | CO | CH4O
reactant | HCl | 1N | Cl | ClH
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Methanesulfonic acid 2-hydroxymethyl-5-methylphenyl ester | OCC1=C(C=C(C=C1)C)OS(=O)(=O)C | C9H12O4S
